US05651919
Next, to a solution comprising 25 g of the previously obtained 4-(3,4-difluorophenyl)benzyl alcohol, 40 g of triphenylphosphine and 80 ml of dichloromethane was added dropwise a solution comprising 64 g of carbon tetrabromide and 35 ml of dichloromethane under stirring at 0° C. After completion of the dropwise addition, the mixture was stirred at the same conditions for one hour, and then raised to room temperature and stirred for one hour to react the materials. After completion of the reaction, the reaction mixture was extracted with hexane, washed with a saturated NaCl aqua, dried and the solvent was removed under reduced pressure, and the residue was purified by recrystallization to obtain 20 g of 4-(3,4-difluorophenyl)benzyl bromide.

reactant | 4-(3,4-difluorophenyl)benzyl alcohol | FC=1C=C(C=CC1F)C1=CC=C(CO)C=C1 | C13H10F2O
reactant | triphenylphosphine | 40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 64 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-(3,4-difluorophenyl)benzyl bromide | 20 g | FC=1C=C(C=CC1F)C1=CC=C(CBr)C=C1 | C13H9BrF2
